US09359337B2
[4-(5-Trifluoromethyl-pyridin-2-yl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester
tert-Butyl morpholin-2-ylmethylcarbamate (1.0 g, 4.62 mmol), 2-chloro-5-(trifluoromethyl)pyridine (839 mg, 4.62 mmol), Pd(dba)2 (133 mg, 0.23 mmol), sodium tert-butoxide (533 mg, 5.55 mmol) and X-Phos (220 mg, 0.46 mmol) were combined in toluene (10 mL). The mixture was degassed with nitrogen for 5 minutes and sealed. The resulting mixture was stirred at 100° C. for 12 h. The mixture was filtered and rinsed with THF. Solvents were evaporated and the residue was purified by ISCO flash column chromatography (0% to 35% ethyl acetate in hexanes) to give the desired compound as a light brown waxy material (350 mg, 21%). [MH]+=362.1.

reactant | tert-Butyl morpholin-2-ylmethylcarbamate | 4.62 mmol, 1.0 g | N1CC(OCC1)CNC(OC(C)(C)C)=O | C10H20N2O3
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 4.62 mmol, 839 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | sodium tert-butoxide | 5.55 mmol, 533 mg | CC(C)([O-])C.[Na+]
reactant | X-Phos | 0.46 mmol, 220 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 0.23 mmol, 133 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [4-(5-Trifluoromethyl-pyridin-2-yl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CN(CCO1)C1=NC=C(C=C1)C(F)(F)F)=O | C16H22F3N3O3
